US06339045B1
Production of N-phenyl-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-1)
1.0 g (0.0029 mol) of 2-bromo-4-methoxy-6-{3-(trifluoromethyl)phenoxy} pyridine was dissolved in about 15 ml of diethyl ether. The solution was cooled in a dry ice-acetone bath in an argon atmosphere and mixed with 1.9 ml of a 1.69M-hexane solution of n-butyl lithium (0.0029×1.1 mol; hereinafter referred to merely as “BuLi”), followed by stirring for about 10 minutes. After 0.86 g (0.0029×2.5 mol) of phenyl isocyanate dissolved in about 5 ml of diethyl ether was added to the reaction solution, the solution was removed from the bath and stirred at room temperature for about 30 minutes. The reaction solution was mixed with about 5 ml of 1.2N aqueous hydrochloric acid solution, and then distributed in ethyl acetate-water, followed by washing with saturated sodium bicarbonate water and saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (eluting solution: ethyl acetate/hexane) to separate a main fraction therefrom. The fraction was concentrated and then subjected to precipitation using hexane, thereby obtaining an aimed product.

reactant | 2-bromo-4-methoxy-6-{3-(trifluoromethyl)phenoxy} pyridine | 0.0029 mol, 1.0 g | BrC1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C13H9BrF3NO2
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | BuLi | [Li]CCCC
reactant | phenyl isocyanate | 2.5 mol, 0.86 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | diethyl ether | about 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | about 5 ml | C(C)OCC | C4H10O
product | N-phenyl-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C1(=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C20H15F3N2O3
